US06849636B2
5-(4-{5-[2-(Trifluoromethyl)phenyl]-1,3,4-oxadiazol-2-yl}bicyclo[2.2.2]oct-1-yl)pentan-2-one (4-H) (0.072 g) was stirred in methanol (2 mL) at 0° C. Sodium borohydride (20 mg) was added. The reaction was allowed to stir to room temperature. The mixture was then layered with ethyl acetate (15 mL) and water (15 mL). The ethyl acetate layer was extracted and dried (MgSO4). Solvent was removed in vacuo to afford pure 5-(4-{5-[2-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2-yl}bicyclo[2.2.2]oct-1-yl)pentan-2-ol (4-I).

reactant | 5-(4-{5-[2-(Trifluoromethyl)phenyl]-1,3,4-oxadiazol-2-yl}bicyclo[2.2.2]oct-1-yl)pentan-2-one | 0.072 g | FC(C1=C(C=CC=C1)C1=NN=C(O1)C12CCC(CC1)(CC2)CCCC(C)=O)(F)F | C22H25F3N2O2
reactant | Sodium borohydride | 20 mg | [BH4-].[Na+]
reactant | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 15 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 5-(4-{5-[2-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2-yl}bicyclo[2.2.2]oct-1-yl)pentan-2-ol | FC(C1=C(C=CC=C1)C1=NN=C(O1)C12CCC(CC1)(CC2)CCCC(C)O)(F)F | C22H27F3N2O2
